US04069321
B. 7-Bromo-3 β,25-dibenzoyloxycholest-5-ene
To a boiling solution of 2.02 gm. of 3β,25-dibenzoyloxycholest- 5-ene (3.3 mmole) in 90 ml. of hexane, and 720 mg. (2.52 mmole) of dibromo-dimethylhydantoin. Reflux for 30 minutes, cool to room temperature, filter and wash with 2 ml. of carbontetrachloride. Concentrate the combined filtrate to dryness to obtain the title product. (2.3 gm.)

reactant | 3β,25-dibenzoyloxycholest- 5-ene | 3.3 mmole | C(C1=CC=CC=C1)(=O)O[C@@H]1CC2=CC[C@H]3[C@@H]4CC[C@H]([C@@H](CCCC(C)(C)OC(C5=CC=CC=C5)=O)C)[C@]4(CC[C@@H]3[C@]2(CC1)C)C | C41H54O4
reactant | dibromo-dimethylhydantoin | 2.52 mmole | BrN1C(N(C(C1=O)(C)C)Br)=O | C5H6Br2N2O2
solvent | hexane | CCCCCC | C6H14
product | 7-Bromo-3 β,25-dibenzoyloxycholest-5-ene | BrC1[C@H]2[C@@H]3CC[C@H]([C@@H](CCCC(C)(C)OC(C4=CC=CC=C4)=O)C)[C@]3(CC[C@@H]2[C@]2(CC[C@@H](CC2=C1)OC(C1=CC=CC=C1)=O)C)C | C41H53BrO4
